US07863291B2
To a solution of methyl 2,2-diethoxyacetimidate (1.1 g, 6.82 mmol) in methanol (8 mL) was added p-tolylmethanamine (0.788 g, 6.50 mmol) dropwise at ambient temperature. The reaction flask was then placed into a preheated oil-bath and stirred at 70° C. for 16 h, then removed and allowed cooled. The volatiles were removed under reduced pressure and the crude material was added dropwise to sulfuric acid (5 mL) at ambient temperature. The reaction mixture was stirred for 72 h, then the flask was placed into an ice-water bath, diluted with water (50 mL), and slowly neutralized to pH=10 with sodium hydroxide (10 N). As the reaction mixture became basic, a grey precipitate formed. This precipitate was filtered, washed with water, and dried to afford 6-methylisoquinolin-3-amine (0.65 g, 63%), as a grey powder. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.73 (s, 1H), 7.69 (d, J=8.28 Hz, 1H), 7.29 (s, 1H), 7.00 (d, J=8.28 Hz, 1H), 5.81 (s, 1H), 2.40 (s, 3H). MS (LC/MS) R.T.=1.37; [M+H]+=159.10.

reactant | methyl 2,2-diethoxyacetimidate | 6.82 mmol, 1.1 g | C(C)OC(C(OC)=N)OCC | C7H15NO3
reactant | p-tolylmethanamine | 6.50 mmol, 0.788 g | CC=1C=CC(=CC1)CN | C8H11N
solvent | methanol | 8 mL | CO | CH4O
product | 6-methylisoquinolin-3-amine | 0.65 g, 63% | CC=1C=C2C=C(N=CC2=CC1)N | C10H10N2
